US09428509B2
3-Chloro-4-((4-(cyclopentyloxy)-5-(2-methylbenzo[d]oxazol-6-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-N-methylbenzamide
To a degassed mixture of 6-(2-chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole (1 equiv), 4-amino-3-chloro-N-methylbenzamide (1 equiv) and cesium carbonate (3 equiv) in 1,4-dioxane (0.1 M) was added palladium acetate (0.2 equiv) and 2,2′-bis-diphenylphosphanyl-[1,1′]binaphthalenyl (0.2 equiv). The reaction was stirred at 100° C. for 4 h. The reaction mixture was cooled to room temperature, and concentrated. The residue was purified by silica gel chromatography (0-5% MeOH in DCM) to afford the title compound (65% yield). MS (ESI) m/z 648.2 [M+1]+.

reactant | 6-(2-chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)OC2CCCC2 | C25H31ClN4O3Si
reactant | 4-amino-3-chloro-N-methylbenzamide | 1 equiv | NC1=C(C=C(C(=O)NC)C=C1)Cl | C8H9ClN2O
reactant | cesium carbonate | 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2′-bis-diphenylphosphanyl-[1,1′]binaphthalenyl | 0.2 equiv | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | 1,4-dioxane | 0.1 M | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.2 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-Chloro-4-((4-(cyclopentyloxy)-5-(2-methylbenzo[d]oxazol-6-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-N-methylbenzamide | 65% yield | ClC=1C=C(C(=O)NC)C=CC1NC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)OC2CCCC2 | C33H39ClN6O4Si
